Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:7]/[O:8][C:9]([H:10])([H:11])[H:12].[H:6],2.96247215177
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],4.59271521468
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[O:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-0.7238871623309999
[H:1][C:2]#[C:3][C:8]([O:7][C:4]([H:5])[H:6])([H:9])[H:10]>>[H:1][C:2]=[C:3]1[C:4]([H:5])([H:6])[O:7][C:8]1([H:9])[H:10],-0.147140798251
[C:4]([H:5])([H:6])=[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-4.02168531743
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11].[O:1],8.05483825093
[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[O:1]=[C:2]=[O:3],-3.35359655047
[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.23585469214
[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.27879955334
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14].[H:7]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-1.8671576249
[H:1][C:2](=[C:3]([H:4])[H:5])[C@@:9]([C:6]([H:7])[H:8])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11]([H:12])([H:13])[H:14],-0.0778583291093999
[H:1][C:2][O:3][C:4]([H:5])[O:6][H:7]>>[H:1][C:2][O:3][C:4]([H:5])=[O:6].[H:7],1.44092526308
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])[H:5],3.52699104239
[H:1][C:2][O:3][C:4]([H:5])[C:9]([C:8]#[C:6][H:7])([H:10])[H:11]>>[H:1][C:2][O:3][C@@:4]1([H:5])[C:6]([H:7])[C:8][C:9]1([H:10])[H:11],0.16627356243
[C:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[C:1]#[C:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.5713412309599994
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8],3.51454288942
[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],1.30988693
[C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.27982537914
[C:1].[O:2][H:3]>>[C:1][O:2][H:3],-7.01421665698
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2][O:3][H:4],3.981922907980002
[H:1][C:2]([H:3])=[C:4][O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.80306415685
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],3.62760660828
[H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:11][H:12]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.12015447175
[H:1][C:2]([H:3])=[C:4]([O:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:4]([O:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:3],5.1862642155900005
[C:4]([H:5])#[C:7].[H:1][C:2](=[C:3][C:8]([H:9])([H:10])[H:11])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-2.82061119815
[H:1][C:2]1=[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[O:9]1>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])=[O:9],0.0177786746099
[H:1][O:2][O:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][O:2][O:3][C:4]([H:5])[C:6]#[C:7],7.025682475449999
[H:12].[H:1][C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.00410025105
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9].[O:1]=[O:2],1.52198175754
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.55128762371
